plaintext
* SPICE Netlist for the Given Schematic

V1 3 0 DC 2.5V

* Resistors
R1 3 4 10k
R2 4 0 10k
RE 3 5 RE
R3 2 0 5k

* Transistor
Q1 5 4 2 QMODEL

* Model for NPN Transistor
.model QMODEL NPN(IS=1e-14 BF=100 VAF=100)

.END