spice
* Simple Amplifier Circuit

VCC 2 0 DC 2.5V
R1 2 3 50k
Q1 3 Vin 0 QMODEL

.model QMODEL NPN (is=1e-14 bf=100)
* Define the model for a generic NPN BJT if needed.

Vin Vin 0 DC 0V