spice
* Transistor Q1 (NPN assumed)
Q1 Vout Vin 0 NPN

* Resistor RC
RC VCC Vout 1k

* Voltage Source VCC
VCC VCC 0 DC <value> ; Specify the DC voltage value

* Vin Input
Vin Vin 0 DC <value> ; Specify the DC input value

* Simulation commands
.control
run
.endc