spice
* SPICE Netlist for the given circuit

VCC 2 0 DC VCC_VALUE
Rout 4 2 Rout_VALUE
R1 3 0 R1_VALUE
Q1 4 BASE 3 NPN_MODEL
Q2 2 3 0 NPN_MODEL

* Models
.model NPN_MODEL NPN

* End of Netlist