plaintext
* SPICE Netlist

V1 VCC 0 DC <DC voltage value>
I1 VCC Vout DC <current source value>
M1 Vout Vb Vin Vin NMOS_L W=<width> L=<length>

* Specify NMOS model parameters
.model NMOS_L NMOS(Level=1)