* NPN Common Emitter Amplifier Circuit

VCC 2 0 DC 2.5V
Vin 1 0 AC 1V

R1 2 3 10k
R2 3 0 2k
RC 2 4 1k
RE 5 0 500

Q1 4 3 5 NPN

.model NPN NPN (IS=1e-14 BF=100)

.tran 1u 10m
.end