spice
* SPICE Netlist

VCC 3 0 DC 2.5V  * Voltage source V_CC

R1 2 3 1k       * 1 kΩ resistor between node 2 and VCC
R2 4 2 10k      * 10 kΩ resistor between base of Q1 and node 4

C1 1 4          * Capacitor between Vin and node 4

Q1 2 4 0 QNPN   * NPN Transistor; collector to node 2, base to node 4, emitter to ground

.model QNPN NPN(Is=1e-14 bf=100)  * NPN transistor model

VIN 1 0 AC 1    * AC Input voltage source

.control
  tran 1n 10u
  plot v(2)
.endc

.end