spice
* SPICE netlist

VCC Vcc 0 DC 2.5
Vin Vin 0 AC 1

R1 2 3 2k
R2 3 4 600
RE1 5 0 RE1
R3 5 0 200
R4 3 0 50

C1 Vin 2 C1
C2 4 0 C2
C3 3 Vout C3

Q1 3 2 5 QMODEL1
Q2 4 3 5 QMODEL2

.model QMODEL1 NPN
.model QMODEL2 NPN

.end