* SPICE Netlist
* Components
Vx 4 6 DC 0
Ix 4 5 DC 0
V1 2 0 DC 0
Gm 5 3 2 3 gm
Ro1 3 7 r_ro1

* Nodes
* 0: Ground
* 2: Connection between V1 and Ground
* 3: Connection between Ro1 and Ground
* 4: Positive terminal of Vx
* 5: Connection between Ix and Controlled Current Source
* 6: Negative terminal of Vx
* 7: Positive terminal of Ro1

.end