plaintext
* Differential Pair Circuit

VCC 5 0 DC 15V
VEE 8 0 DC -15V
Vi 0 0 DC 0V

Q1 5 0 4 NPN
Q2 6 7 4 NPN

R1 5 6 10k
RTAIL 4 8 10k

Vo 3 0 DC 0V

.model NPN NPN