spice
* NMOS Transistor
M1 2 4 0 0 NMOS_MODEL

* Resistor
RD 3 2 5k

* Voltage Sources
VDD 3 0 DC 1.8V
VB  4 0 DC <VB_value>

* Model Definition (as example; actual model parameters needed)
.model NMOS_MODEL NMOS (LEVEL=1 VTO=0.7 KP=50u)