* NMOS Transistor
M1 Drain Gate 2 2 NMOS_MODEL

* Current Source
Ix Drain Vx I=1A  * assuming 1A for simulation, change as needed

* Voltage Source
Vx Vx 2 DC 1V  * assuming 1V, change as needed

* Node Labels
.node labels
* Drain, Vx, Gate = Ground