plaintext
* MOSFET Amplifier Circuit
VDD VDD 0 DC 10
RS VDD M1_SOURCE 1k
RD M1_DRAIN 0 1k
V_IN VIN 0 DC 0
M1 M1_DRAIN VIN M1_SOURCE M1_SOURCE NMOS

* Model for NMOS
.model NMOS NMOS (LEVEL=1)

.end