plaintext
* SPICE netlist for the circuit

V1 VDD 0 DC 5V
Vin Vin 0 DC 1V

* Resistor
RD Vout 2 10k
R1 3 0 10k

* Transistors
M1 Vout Vin VDD VDD PMOS L=1u W=5u
M2 2 3 0 0 NMOS L=1u W=5u

* Analysis commands
.OP
.END