spice
* SPICE Netlist for the given circuit

VCC 2 0 DC 5V
IIN 7 2 DC 1A

Q1 2 7 0 NPN  ; Q1: NPN Transistor
Q2 2 2 4 NPN  ; Q2: NPN Transistor
Q3 3 4 6 NPN  ; Q3: NPN Transistor
Q4 3 4 6 NPN  ; Q4: NPN Transistor

R1 7 0 1k     ; R1: Resistor
R3 4 6 1k     ; R3: Resistor
R4 3 6 1k     ; R4: Resistor

.model NPN NPN