plaintext
* MOSFET
M1 4 3 2 2 NMOS L=0.36u W=5u

* Voltage Source
V1 3 2 DC 0.9V

* Current Source
Ix 4 2 DC 0A

* Voltage Source
Vx 2 0

* Model Definitions
.model NMOS NMOS