spice
* SPICE Netlist for the given schematic
* PMOS transistor (M1)
M1 1 4 3 3 PMOS L=0.36u W=5u

* PMOS transistor (M2)
M2 4 4 3 3 PMOS L=0.36u W=5u

* Voltage Source
V1 3 4 DC 0.9

* Current Source
Ix 1 2 DC Ix

* Analysis Commands
.TRAN 1n 10u
.END