spice
* SPICE Netlist for the given schematic

M1 3 3 2 NMOS L=0.18U W=5U
M2 4 3 2 NMOS L=0.18U W=5U

V1 1 2 DC 0.9
I1 3 4 DC IX

Vx 3 0 DC 0

.model NMOS NMOS(Level=1)

.end