spice
* SPICE Netlist

* Voltage source
VDD 4 0 DC 1.8

* Voltage source Vx
VX 2 0

* Current source
IX 4 2 DC 0

* NMOS Transistors
M1_1 4 3 3 3 NMOS L=0.18u W=5u
M1_2 2 3 3 3 NMOS L=0.18u W=5u

* Model definition for NMOS
.model NMOS NMOS (LEVEL=1)

.end