spice
* NMOS Example Circuit
VDD 3 0 DC 1.8V

R1 3 2 4k
R2 2 0 10k
RD 3 5 2k
RS 5 0 1k

M1 5 2 0 0 NMOS_model

.model NMOS_model NMOS (Level=1)

* End of netlist