* NMOS and PMOS Transistor Circuit

M1 3 Vin 0 0 NMOS   * Q1 NMOS: Drain (3), Gate (Vin), Source (0)
M2 Vout 3 VCC VCC PMOS  * Q2 PMOS: Drain (VCC), Gate (3), Source (Vout)

* Voltage source and termination for simulation
Vin Vin 0 DC 0
VCC VCC 0 DC Vdd  * Vdd for the PMOS
Vout Vout 0 DC 0
.END