plaintext
* SPICE Netlist for the given schematic

* NMOS Transistor
M1 2 5 3 3 NMOS_MODEL

* Resistors
RS 2 3 RS_VALUE
RO1 2 4 RO1_VALUE
RO2 2 3 RO2_VALUE

* Current Source
Gm 2 3 VALUE={1/GM2_VALUE}

* Load resistor
Rout1 2 0 ROUT1_VALUE

* Models and other definitions
.model NMOS_MODEL NMOS (LEVEL=1)
.param RS_VALUE=1k
.param RO1_VALUE=100k
.param RO2_VALUE=100k
.param GM2_VALUE=1m
.param ROUT1_VALUE=10k

.end