* Example SPICE netlist
VDD 4 0 DC 5V
VIN 1 0 DC 1V
RS 1 3 1k
RD 4 2 1k
R1 3 4 1k
R2 3 5 1k
R3 5 0 1k
C1 3 5 1uF

* NMOS definition: M<name> <drain node> <gate node> <source node> <source node> (since the body is connected to the source)
M1 2 3 5 5 NMOS_MODEL

.model NMOS_MODEL NMOS (kp=120u vto=0.7 lambda=0.02)

.tran 0.1u 10u
.end