* SPICE Netlist

* Voltage Source
VDD 8 0 DC

* Current Source
IIN 8 5 DC

* NMOS Transistors
M1 7 6 9 9 NMOS
M2 6 10 9 9 NMOS

* PMOS Transistors
M3 4 5 7 7 PMOS
M4 5 3 4 4 PMOS

* Capacitor
C1 5 10

* End of Netlist