spice
* SPICE Netlist

VDD 4 0 DC 1.8V
VB 5 0 DC <value>   ; Specify the bias voltage value

M1 0 3 0 0 NMOS     ; M1 (Drain, Gate, Source, Body)
M2 2 3 4 4 PMOS     ; M2 (Drain, Gate, Source, Body)

* Model declarations (if needed)
.model NMOS nmos
.model PMOS pmos

* Analysis commands (optional)
*.op
*.dc
*.ac

.end