plaintext
* SPICE Netlist for the given circuit

M1 Vout Vb 0 0 NMOS
M2 Vout Vin VDD VDD PMOS

* Nodes:
* Vout - Output node
* Vin - Input node for M2
* Vb - Input node for M1

.ends