plaintext
* SPICE Netlist for the Circuit

* Voltage Sources
VDD 5 0 DC 1
VIN1 7 0 DC 1
VIN2 4 0 DC 1

* Current Sources
IIN1 5 2 DC 1
IIN2 2 0 DC 1

* NMOS Transistors: M3, M5, M1 (Assuming default model NMOS)
M1 6 2 0 0 NMOS W=W L=L
M3 2 4 0 0 NMOS W=W L=L
M5 7 7 0 0 NMOS W=1/3W L=L

* PMOS Transistors: M2, M4, M6 (Assuming default model PMOS)
M2 2 6 2 2 PMOS W=W L=L
M4 5 4 2 2 PMOS W=W L=L
M6 7 5 2 2 PMOS W=W L=L

* Output
VOUT 2 0

* End of Netlist