plaintext
* SPICE Netlist for the given circuit

* Voltage Source
VDD 2 0 DC 1.8

* Transistors
* M1 is an NMOS: Drain is connected to Node 3, Gate is Node 'Vin', Source is Ground
M1 3 Vin 0 NMOS

* M2 is a PMOS: Drain is connected to Node 3, Gate is Node 2, Source is Node 2
M2 2 2 3 PMOS

* Input Voltage 
Vin Vin 0 DC 0

* Models for NMOS and PMOS
.model NMOS NMOS
.model PMOS PMOS

.end