plaintext
* Example SPICE Netlist
VDD 2 0 DC 5V
I1 2 3 DC 1mA
R1 3 0 10k
M1 3 4 4 4 NMOS_MODEL
VIN 4 0 DC 0V

* Models
.model NMOS_MODEL NMOS(Level=1)