plaintext
* SPICE netlist for the given circuit

M1 2 Vin VDD VDD PMOS
M2 2 3 0 0 NMOS

R1 2 3 R1_value
R2 3 0 R2_value

VDD VDD 0 VDD_value
Vin Vin 0 DC Vin_value

.model PMOS PMOS
.model NMOS NMOS

.end