* Transistor Definitions
M1 2 3 0 0 NMOS W=10u L=0.18u
M2 2 3 4 4 PMOS W=W2 L=0.18u

* Voltage Source
VDD 4 0 DC 1.8V

* Input source
Vin 3 0

* Simulation Commands (if needed)
*.op
*.dc Vin 0 1.8 0.1
*.plot v(2)
*.end