spice
* Op-Amp Circuit
V1 4 2 DC 1V
XU1 0 4 1 opamp

* Model for Op-Amp with a gain of 1000
.subckt opamp non_inv inv out
E1 out 0 value={1000*(V(non_inv) - V(inv))}
.ends opamp

* Ground
V2 3 2 DC 0