spice
* Operational Amplifier Inverting Circuit

V1 4 0 DC Vin
R1 3 2 R1_value
R2 2 1 R2_value
XOP 0 2 3 OPAMP

* Define OPAMP as a subcircuit
.subckt OPAMP IN- IN+ OUT
* Simple ideal op-amp model, replace with actual model as needed
E1 OUT 0 VALUE = {IF(V(IN+) > V(IN-), VOUT_max, VOUT_min)}
.ends OPAMP

* Connections:
* Node 1: Input to Op-Amp and R2's resistor
* Node 2: Between R1, R2, Virtual Ground, and Op-Amp inverting input
* Node 3: Output of Op-Amp
* Node 4: Vin

* Simulation and control commands would go here
.end