plaintext
* SPICE Netlist for the given circuit

Vin 4 0 DC 0V
R1 4 2 1k
C1 2 2 10u

* Operational Amplifier
* Ideal Op-Amp, connections:
* Non-inverting input - node 2
* Inverting input - node 4
* Output - Vout
.subckt opamp 2 4 Vout
* No specific parameters, ideal op-amp assumed
.ends opamp

XOP 2 4 Vout opamp

* End of Netlist