spice
* Voltage Follower with Feedback
Vosc 1 3 DC <vos_value>
Xopamp 3 2 3 opamp
R1 3 2 <R1_value>
R2 2 0 <R2_value>

* Define the operational amplifier as a subcircuit
.subckt opamp non_inv inv out
* Dummy model for operational amplifier
* Replace with actual behavioral model if necessary
Eout out 0 value = {V(non_inv) - V(inv)}
.ends opamp

* Specify values
.param vos_value=1
.param R1_value=1k
.param R2_value=1k

.end