* Node assignments
   * Vin = Voltage source
   * R1 = Resistor
   * R2 = Resistor
   * C1 = Capacitor
   * U1 = Operational Amplifier (Op-amp)

   Vin 5 3 DC 0
   R1 5 2 1k
   R2 2 4 1k
   C1 2 4 1uF
   U1 3 2 4 2 Opamp

   * Control statements
   .model Opamp opamp
   .end