plaintext
* SPICE Netlist for the given schematic

* Current source
IREF 4 5 DC some_value

* Bipolar Junction Transistors
QREF 3 4 3 BJT_MODEL
Q1 2 4 2 BJT_MODEL

* Voltage source
VCC 4 0 DC VCC_value

* Model definition for BJT (assuming default values, needs to be defined)
.model BJT_MODEL npn

* End of netlist