plaintext
* SPICE Netlist

* Current Source
I_REF 3 0 DC

* Transistors
Q1 2 3 0 QMOD
Q2 4 2 0 QMOD
Q3 4 2 0 QMOD

* Models
.model QMOD NPN

* Voltage Source
VCC 4 0 DC