* NMOS Transistors
   M1 3 4 0 0 NMOS
   M2 0 2 0 0 NMOS

   * Resistors
   Rp 3 0 Rp_value
   Rout 3 out Rout_value

   * Voltage Nodes
   Vb1 4 0 DC Vb1_value
   Vb2 2 0 DC Vb2_value

   .model NMOS nmos
   .end