plain
* SPICE Netlist
VCC VCC 0 DC <value>
Vb Vb 0 DC <value>
Vin Vin 0 DC <value>

Q1 Node2 Vin Emitter Q1_Model
Q2 VCC Vb Node2 Q2_Model

RE Emitter 0 <value>

.model Q1_Model NPN
.model Q2_Model NPN